US06756378B2
To a stirred mixture of (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethypyrrolidine (23.3 g, 46.9 mmol) and acetic acid (6.0 ml, 104.8 mmol) in THF (470 ml) was added TBAF (93.8 ml, 93.8 mmol) at 0° C. After 24 h stirring, the mixture was concentrated in vacuo. The resulting residue was diluted with EtOAC and aq. NH4Cl and extracted with EtOAc. The combined extracts were washed with brine, which were dried over Na2SO4 and concntrated in vacuo. The residue was chromatographed on silica gel (700 g, CHCl3/EtOAc (4/1)], to give (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-pyrrolidinemethanol (9.70 g, 8%) as a colorless oil. 1H-NMR (CDCl3) δ1.47 (s, 9H), 1.63 (m, 1H), 1.81 (m, 1H), 2.07 (s, 3H), 234 (m, 1H), 3.42 (dd, J=12.7, 0.9 Hz, 1H), 3.62-3.85 (m, 3H), 4.48 (br, 1H), 5.20 (br, 1H).

reactant | (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-tert-butyldiphenylsilyloxymethypyrrolidine | 46.9 mmol, 23.3 g | C(C)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H39NO5Si
reactant | acetic acid | 104.8 mmol, 6.0 ml | C(C)(=O)O | C2H4O2
reactant | TBAF | 93.8 mmol, 93.8 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 470 ml | C1CCOC1 | C4H8O
product | (2S,4S)-4-acetoxy-1-tert-butoxycarbonyl-2-pyrrolidinemethanol | 9.70 g, 8% | C(C)(=O)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C12H21NO5
